US07560551B2
In a 20-mL sealed tube was dissolved 4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)-1-H-pyrazole-3-carbonitrile (0.070 g, 0.145 mmol) in DMSO (1.0 mL). To this was added potassium carbonate (0.024 g, 0.174 mmol) and hydrogen peroxide (0.445 mL, 14.5 mmol) and the mixture was stirred at 20° C. for 3 days and quenched with water. The product was extracted into EtOAc, washed 1× saturated NaHCO3, 1×H2O, dried over Na2SO4, filtered through fritted funnel and concentrated. The title compound was purified using a Gilson reverse phase liquid chromatography system. The product fractions were extracted into CH2Cl2. The organic layers were washed organics 1× saturated NaHCO3, 1×H2O, dried with Na2SO4, filtered through fritted funnel and concentrated to yield 4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)-1-H-pyrazole-3-carboxamide as light yellow solid. MS m/z=500 [M+1]+. Calc'd for C29H21N7O2: 499.52.

reactant | 4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)-1-H-pyrazole-3-carbonitrile | 0.145 mmol, 0.070 g | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(OC2=NC=CC=C2C=2C(=NNC2)C#N)C=C1 | C29H19N7O
reactant | potassium carbonate | 0.174 mmol, 0.024 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 14.5 mmol, 0.445 mL | OO | H2O2
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | 4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)-1-H-pyrazole-3-carboxamide | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(OC2=NC=CC=C2C=2C(=NNC2)C(=O)N)C=C1 | C29H21N7O2
